US06482951B2
A solution of phthalic dicarboxaldehyde (349 mg; 2.60 mmol) and 2-Amino-3-cyclooctyl-propionic acid (500 mg; 2.51 mmol) in acetonitrile (20 mL) was heated to reflux for 3 h. The mixture was then hot filtered to remove insoluble material and then allowed to cool to room temperature and then further cooled to 0° C. The solid was filtered off, rinsed with cold acetonitrile and air dried to give 480 mg (62%) of 3-Cyclooctyl-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid as a white solid: EI-HRMS m/e calcd for C19H25NO3 (M+) 315.1834, found 315.1840.

reactant | 2-Amino-3-cyclooctyl-propionic acid | 2.51 mmol, 500 mg | NC(C(=O)O)CC1CCCCCCC1 | C11H21NO2
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-Cyclooctyl-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid | 480 mg, 62% | C1(CCCCCCC1)CC(C(=O)O)N1C(C2=CC=CC=C2C1)=O | C19H25NO3
